US05157041
1.1 g of 1-(benzyloxycarbonyl)-4-(tert.butoxycarbonyl)-N-tert.butyl-2-piperazinecarboxamide were dissolved in 40 ml of ethanol. 0.1 g of 10% palladium-on-carbon was added and the mixture was hydrogenated at room temperature and under atmospheric pressure for 2 hours. The catalyst was filtered off. The filtrate was evaporated to give 0.74 g of crude product which was purified by flash chromatography on silica gel using 5% methanol in dichloromethane for the elution. After evaporation of the solvents there was obtained 0.44 g of 4-(tert.butoxycarbonyl)-N-tert.butyl-2-piperazinecarboxamide as an oil; MS: m/e 286 [M+H]+.

reactant | 1-(benzyloxycarbonyl)-4-(tert.butoxycarbonyl)-N-tert.butyl-2-piperazinecarboxamide | 1.1 g | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)NC(C)(C)C | C22H33N3O5
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 4-(tert.butoxycarbonyl)-N-tert.butyl-2-piperazinecarboxamide | 0.44 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)NC(C)(C)C | C14H27N3O3
